US07705034B2
2-[(5-Fluoro-3-methyl-benzo[b]thiophen-2-yl)-phenyl-methyl]-3-hydroxy-4-methyl-4-phenyl-cyclobut-2-enone
Using general procedure D, 2-methyl-2-phenyl-cyclobutane-1,3-dione (Lit. 1) was reacted with (5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol to give the title compound as a colorless solid. MS: 427.5 ([M−H]−).

reactant | 2-methyl-2-phenyl-cyclobutane-1,3-dione | CC1(C(CC1=O)=O)C1=CC=CC=C1 | C11H10O2
reactant | (5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol | FC1=CC2=C(SC(=C2C)C(O)C2=CC=CC=C2)C=C1 | C16H13FOS
product | 2-[(5-Fluoro-3-methyl-benzo[b]thiophen-2-yl)-phenyl-methyl]-3-hydroxy-4-methyl-4-phenyl-cyclobut-2-enone | FC1=CC2=C(SC(=C2C)C(C=2C(C(C2O)(C2=CC=CC=C2)C)=O)C2=CC=CC=C2)C=C1 | C27H21FO2S
